US07750154B2
N-Cyclopropyl-3-[6-{[2-(dimethylamino)ethyl]thio}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide hydrochloride salt
Using an analogous procedure to that described in Example 45, 4N HCl in dioxane was reacted with N-cyclopropyl-3-[6-{[2-(dimethylamino)ethyl]thio}-4-oxoquinazolin-3 (4H)-yl]4-methylbenzamide to gave the title compound; NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.70 (m, 2H), 2.15 (s, 3H), 2.70 (s, 6H), 2.85 (m, 1H), 3.14 (t, 2H), 3.45 (m, 2H), 7.53 (d, 1H), 7.78 (d, 1H), 7.85 (s, 1H), 7-91 (d, 1H), 7.95 (d, 1H), 8.12 (s, 1H), 8.31 (s, 1H), 8.50 (d, 1H), 10.65 (br s, 1H)

reactant | HCl | 4N | Cl | ClH
reactant | N-cyclopropyl-3-[6-{[2-(dimethylamino)ethyl]thio}-4-oxoquinazolin-3 (4H)-yl]4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)SCCN(C)C)=O | C23H26N4O2S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-3-[6-{[2-(dimethylamino)ethyl]thio}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide hydrochloride salt | Cl.C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)SCCN(C)C)=O | InChI=1S/C23H26N4O2S.ClH/c1-15-4-5-16(22(28)25-17-6-7-17)12-21(15)27-14-24-20-9-8-18(13-19(20)23(27)29)30-11-10-26(2)3;/h4-5,8-9,12-14,17H,6-7,10-11H2,1-3H3,(H,25,28);1H
